US05864039
4-Amino-N-((1-(5-benzylaminopentyl)piperidin-4-yl)methyl)-5-chloro-2-methoxybenzamide (2.0 g) as starting compound, acetone (0.3 ml) and sodium cyanoborohydride (0.35 g) were reacted and treated in the same manner as in Example 136 to give 0.43 g of 4-amino-5-chloro-N-((1-(5-(N-isopropyl-N-benzylamino)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-N-((1-(5-benzylaminopentyl)piperidin-4-yl)methyl)-5-chloro-2-methoxybenzamide | 2.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCNCC2=CC=CC=C2)C=C1Cl)OC | C26H37ClN4O2
reactant | sodium cyanoborohydride | 0.35 g | C(#N)[BH3-].[Na+]
reactant | acetone | 0.3 ml | CC(=O)C | C3H6O
product | 4-amino-5-chloro-N-((1-(5-(N-isopropyl-N-benzylamino)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 0.43 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN(CC2=CC=CC=C2)C(C)C)C=C1Cl)OC | C29H43ClN4O2
